US06316438B1
9-Amino-3-ethyl-3H-pyrazolo[4′,3′:5,6]pyrido[3,4-d]pyridazin-6(7H)-one
To a suspension of 4-cyano-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester (10.0 g, 40.1 mmol) in ethanol (100 mL) was added anhydrous hydrazine (5 eq). This suspension was then heated at 80° C. until starting material was consumed. The reaction was allowed to cool to rt and diluted with water (200 mL). The resulting solid was filtered and washed thoroughly with water until the filtrate was colorless. The solid was dried under vacuum to afford the title compound as a yellow solid (5.5 g, 60%). This material was >90% pure as judged by HPLC and was used directly.

reactant | 4-cyano-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester | 40.1 mmol, 10.0 g | C(#N)C1=C2C(=NC=C1C(=O)OCC)N(N=C2)CC | C12H12N4O2
reactant | hydrazine | 5 eq | NN | H4N2
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 9-Amino-3-ethyl-3H-pyrazolo[4′,3′:5,6]pyrido[3,4-d]pyridazin-6(7H)-one | 5.5 g, 60% | NC=1C2=C(C(NN1)=O)C=NC1=C2C=NN1CC | C10H10N6O
